* Arm A oscillator 0: distributed RC from SPEF
* auto-generated by gen_rc_decks.py
.lib "/home/pc/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.include "/home/pc/pdks/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice"
.param SUPPLY=1.8
Vdd VPWR 0 {SUPPLY}
Ven EN 0 PULSE(0 1.8 2n 50p 50p 1 2)

* --- Arm A oscillator 0: nand + 30 inverters + tap buffer ---
Xnand EN nand_B 0 0 VPWR VPWR nand_Y sky130_fd_sc_hd__nand2_1
Xi1 i1_A 0 0 VPWR VPWR i1_Y sky130_fd_sc_hd__inv_1
Xi2 i2_A 0 0 VPWR VPWR i2_Y sky130_fd_sc_hd__inv_1
Xi3 i3_A 0 0 VPWR VPWR i3_Y sky130_fd_sc_hd__inv_1
Xi4 i4_A 0 0 VPWR VPWR i4_Y sky130_fd_sc_hd__inv_1
Xi5 i5_A 0 0 VPWR VPWR i5_Y sky130_fd_sc_hd__inv_1
Xi6 i6_A 0 0 VPWR VPWR i6_Y sky130_fd_sc_hd__inv_1
Xi7 i7_A 0 0 VPWR VPWR i7_Y sky130_fd_sc_hd__inv_1
Xi8 i8_A 0 0 VPWR VPWR i8_Y sky130_fd_sc_hd__inv_1
Xi9 i9_A 0 0 VPWR VPWR i9_Y sky130_fd_sc_hd__inv_1
Xi10 i10_A 0 0 VPWR VPWR i10_Y sky130_fd_sc_hd__inv_1
Xi11 i11_A 0 0 VPWR VPWR i11_Y sky130_fd_sc_hd__inv_1
Xi12 i12_A 0 0 VPWR VPWR i12_Y sky130_fd_sc_hd__inv_1
Xi13 i13_A 0 0 VPWR VPWR i13_Y sky130_fd_sc_hd__inv_1
Xi14 i14_A 0 0 VPWR VPWR i14_Y sky130_fd_sc_hd__inv_1
Xi15 i15_A 0 0 VPWR VPWR i15_Y sky130_fd_sc_hd__inv_1
Xi16 i16_A 0 0 VPWR VPWR i16_Y sky130_fd_sc_hd__inv_1
Xi17 i17_A 0 0 VPWR VPWR i17_Y sky130_fd_sc_hd__inv_1
Xi18 i18_A 0 0 VPWR VPWR i18_Y sky130_fd_sc_hd__inv_1
Xi19 i19_A 0 0 VPWR VPWR i19_Y sky130_fd_sc_hd__inv_1
Xi20 i20_A 0 0 VPWR VPWR i20_Y sky130_fd_sc_hd__inv_1
Xi21 i21_A 0 0 VPWR VPWR i21_Y sky130_fd_sc_hd__inv_1
Xi22 i22_A 0 0 VPWR VPWR i22_Y sky130_fd_sc_hd__inv_1
Xi23 i23_A 0 0 VPWR VPWR i23_Y sky130_fd_sc_hd__inv_1
Xi24 i24_A 0 0 VPWR VPWR i24_Y sky130_fd_sc_hd__inv_1
Xi25 i25_A 0 0 VPWR VPWR i25_Y sky130_fd_sc_hd__inv_1
Xi26 i26_A 0 0 VPWR VPWR i26_Y sky130_fd_sc_hd__inv_1
Xi27 i27_A 0 0 VPWR VPWR i27_Y sky130_fd_sc_hd__inv_1
Xi28 i28_A 0 0 VPWR VPWR i28_Y sky130_fd_sc_hd__inv_1
Xi29 i29_A 0 0 VPWR VPWR i29_Y sky130_fd_sc_hd__inv_1
Xi30 i30_A 0 0 VPWR VPWR i30_Y sky130_fd_sc_hd__inv_1
Xbuf buf_A 0 0 VPWR VPWR buf_X sky130_fd_sc_hd__buf_1

Rn0_0 nand_Y i1_A 30.2384
Cg0 i1_A 0 9.792130e-17
Cg1 nand_Y 0 9.792130e-17
Cx0 i1_A 0 8.390000e-17
Cx1 i1_A 0 8.159390e-17
Rn1_1 i1_Y i2_A 19.9080
Cg2 i2_A 0 7.908080e-17
Cg3 i1_Y 0 7.908080e-17
Rn10_2 i10_Y i11_A 20.8277
Cg4 i11_A 0 1.189390e-16
Cg5 i10_Y 0 1.189390e-16
Cc0 i11_A i10_A 5.153480e-17
Cc1 i11_A i12_A 2.279250e-17
Rn11_3 i11_Y i12_A 32.2741
Cg6 i12_A 0 3.422400e-16
Cg7 i11_Y 0 3.422400e-16
Cc2 i12_A i13_A 8.982070e-17
Cx2 i12_A 0 0.000000e+00
Rn12_4 i12_Y i13_A 31.9348
Cg8 i13_A 0 2.582650e-16
Cg9 i12_Y 0 2.582650e-16
Cc3 i13_A i14_A 5.430260e-17
Cx3 i13_A 0 0.000000e+00
Rn13_5 i13_Y i14_A 20.8991
Cg10 i14_A 0 1.137730e-16
Cg11 i13_Y 0 1.137730e-16
Cc4 i14_A i15_A 5.423730e-17
Rn14_6 i14_Y i15_A 31.9527
Cg12 i15_A 0 2.123080e-16
Cg13 i14_Y 0 2.123080e-16
Cc5 i15_A i16_A 7.247990e-17
Cc6 i15_A s1194_6 2.489120e-17
Cc7 i15_A s1219_16 6.062910e-18
Cx4 i15_A 0 3.483310e-17
Rn15_7 i15_Y s1194_6 10.0411
Rn15_8 s1194_6 buf_A 12.2107
Rn15_9 s1194_6 i16_A 20.7866
Cg14 i16_A 0 1.209720e-16
Cg15 buf_A 0 1.178350e-16
Cg16 i15_Y 0 1.935930e-17
Cg17 s1194_6 0 2.581670e-16
Cc8 i16_A i17_A 1.344990e-17
Cc9 buf_A s1219_16 1.410480e-16
Cx5 buf_A 0 5.837030e-17
Cc10 s1194_6 s1219_16 6.382900e-17
Cx6 s1194_6 0 6.263290e-18
Cx7 i16_A 0 0.000000e+00
Rn16_10 i16_Y i17_A 32.6848
Cg18 i17_A 0 3.644000e-16
Cg19 i16_Y 0 3.644000e-16
Cc11 i17_A i18_A 8.845840e-17
Cc12 i17_A i22_A 2.499630e-17
Cx8 i17_A 0 2.820570e-17
Rn17_11 i17_Y i18_A 31.4527
Cg20 i18_A 0 2.021950e-16
Cg21 i17_Y 0 2.021950e-16
Cc13 i18_A i19_A 2.629080e-17
Cc14 i18_A i22_A 1.957520e-17
Cx9 i18_A 0 1.281540e-16
Rn18_12 i18_Y i19_A 30.2205
Cg22 i19_A 0 1.366380e-16
Cg23 i18_Y 0 1.366380e-16
Cc15 i19_A i20_A 1.145480e-17
Cx10 i19_A 0 4.575380e-17
Cx11 i19_A 0 4.033180e-17
Rn19_13 i19_Y i20_A 21.1313
Cg24 i20_A 0 1.765420e-16
Cg25 i19_Y 0 1.765420e-16
Cc16 i20_A i21_A 1.703710e-17
Rn2_14 i2_Y i3_A 21.6938
Cg26 i3_A 0 1.712450e-16
Cg27 i2_Y 0 1.712450e-16
Cc17 i3_A i5_A 2.524000e-17
Cc18 i3_A i6_A 1.615340e-17
Rn20_15 i20_Y i21_A 30.5688
Cg28 i21_A 0 1.502230e-16
Cg29 i20_Y 0 1.502230e-16
Cc19 i21_A i22_A 3.927570e-17
Cx12 i21_A 0 8.390000e-17
Cx13 i21_A 0 0.000000e+00
Rn21_16 i21_Y i22_A 32.8723
Cg30 i22_A 0 2.495600e-16
Cg31 i21_Y 0 2.495600e-16
Cc20 i22_A i23_A 1.310110e-16
Cx14 i22_A 0 0.000000e+00
Cx15 i22_A 0 6.518500e-17
Rn22_17 i22_Y i23_A 32.0598
Cg32 i23_A 0 2.103740e-16
Cg33 i22_Y 0 2.103740e-16
Cx16 i23_A 0 1.796560e-16
Rn23_18 i23_Y i24_A 33.2830
Cg34 i24_A 0 4.146500e-16
Cg35 i23_Y 0 4.146500e-16
Cx17 i24_A 0 0.000000e+00
Rn24_19 i24_Y i25_A 19.4973
Cg36 i25_A 0 5.419390e-17
Cg37 i24_Y 0 5.419390e-17
Rn25_20 i25_Y i26_A 19.4973
Cg38 i26_A 0 5.353250e-17
Cg39 i25_Y 0 5.353250e-17
Rn26_21 i26_Y i27_A 19.4973
Cg40 i27_A 0 4.783950e-17
Cg41 i26_Y 0 4.783950e-17
Cc21 i27_A i28_A 2.442880e-17
Rn27_22 i27_Y i28_A 30.9795
Cg42 i28_A 0 2.338790e-16
Cg43 i27_Y 0 2.338790e-16
Rn28_23 i28_Y i29_A 19.9080
Cg44 i29_A 0 7.784580e-17
Cg45 i28_Y 0 7.784580e-17
Rn29_24 i29_Y i30_A 21.9616
Cg46 i30_A 0 2.085850e-16
Cg47 i29_Y 0 2.085850e-16
Rn3_25 i3_Y i4_A 34.1848
Cg48 i4_A 0 1.992980e-16
Cg49 i3_Y 0 1.992980e-16
Cc22 i4_A s1219_16 1.042880e-16
Cx18 i4_A 0 1.042880e-16
Cx19 i4_A 0 1.243420e-16
Cx20 i4_A 0 3.425020e-16
Rn30_26 i30_Y nand_B 19.3411
Cg50 nand_B 0 5.363810e-17
Cg51 i30_Y 0 5.363810e-17
Rn4_27 i4_Y i5_A 32.2384
Cg52 i5_A 0 2.336600e-16
Cg53 i4_Y 0 2.336600e-16
Cc23 i5_A i6_A 1.281540e-16
Cc24 i5_A s1219_16 3.331740e-17
Cx21 i5_A 0 0.000000e+00
Cx22 i5_A 0 9.746840e-17
Rn5_28 i5_Y i6_A 29.8545
Cg54 i6_A 0 7.924390e-17
Cg55 i5_Y 0 7.924390e-17
Cc25 i6_A i7_A 2.798270e-17
Cx23 i6_A 0 1.264390e-16
Rn6_29 i6_Y i7_A 20.8277
Cg56 i7_A 0 1.255490e-16
Cg57 i6_Y 0 1.255490e-16
Cc26 i7_A i8_A 3.929970e-17
Rn7_30 i7_Y i8_A 21.1313
Cg58 i8_A 0 1.209290e-16
Cg59 i7_Y 0 1.209290e-16
Cc27 i8_A i9_A 3.028690e-17
Rn8_31 i8_Y i9_A 21.3813
Cg60 i9_A 0 1.419540e-16
Cg61 i8_Y 0 1.419540e-16
Cc28 i9_A i10_A 2.629080e-17
Rn9_32 i9_Y i10_A 22.0241
Cg62 i10_A 0 2.296600e-16
Cg63 i9_Y 0 2.296600e-16
Rout_33 buf_X s1219_16 38.6750
Cg64 buf_X 0 1.565340e-15
Cg65 s1219_16 0 2.336580e-15
Cx24 s1219_16 0 2.808530e-17
Cx25 s1219_16 0 1.158160e-16
Cx26 s1219_16 0 1.070680e-16
Cx27 s1219_16 0 5.230570e-17
Cx28 s1219_16 0 1.317400e-16
Cx29 s1219_16 0 7.410450e-17
Cx30 s1219_16 0 1.063830e-15

.save v(buf_X)
.tran 1p 140n
.control
run
meas tran tp TRIG v(buf_X) VAL=0.9 RISE=5 TARG v(buf_X) VAL=0.9 RISE=25
let f = 20 / tp
print f
.endc
.end
