* Arm A oscillator 1: distributed RC from SPEF
* auto-generated by gen_rc_decks.py
.lib "/home/pc/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.include "/home/pc/pdks/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice"
.param SUPPLY=1.8
Vdd VPWR 0 {SUPPLY}
Ven EN 0 PULSE(0 1.8 2n 50p 50p 1 2)

* --- Arm A oscillator 1: nand + 30 inverters + tap buffer ---
Xnand EN nand_B 0 0 VPWR VPWR nand_Y sky130_fd_sc_hd__nand2_1
Xi1 i1_A 0 0 VPWR VPWR i1_Y sky130_fd_sc_hd__inv_1
Xi2 i2_A 0 0 VPWR VPWR i2_Y sky130_fd_sc_hd__inv_1
Xi3 i3_A 0 0 VPWR VPWR i3_Y sky130_fd_sc_hd__inv_1
Xi4 i4_A 0 0 VPWR VPWR i4_Y sky130_fd_sc_hd__inv_1
Xi5 i5_A 0 0 VPWR VPWR i5_Y sky130_fd_sc_hd__inv_1
Xi6 i6_A 0 0 VPWR VPWR i6_Y sky130_fd_sc_hd__inv_1
Xi7 i7_A 0 0 VPWR VPWR i7_Y sky130_fd_sc_hd__inv_1
Xi8 i8_A 0 0 VPWR VPWR i8_Y sky130_fd_sc_hd__inv_1
Xi9 i9_A 0 0 VPWR VPWR i9_Y sky130_fd_sc_hd__inv_1
Xi10 i10_A 0 0 VPWR VPWR i10_Y sky130_fd_sc_hd__inv_1
Xi11 i11_A 0 0 VPWR VPWR i11_Y sky130_fd_sc_hd__inv_1
Xi12 i12_A 0 0 VPWR VPWR i12_Y sky130_fd_sc_hd__inv_1
Xi13 i13_A 0 0 VPWR VPWR i13_Y sky130_fd_sc_hd__inv_1
Xi14 i14_A 0 0 VPWR VPWR i14_Y sky130_fd_sc_hd__inv_1
Xi15 i15_A 0 0 VPWR VPWR i15_Y sky130_fd_sc_hd__inv_1
Xi16 i16_A 0 0 VPWR VPWR i16_Y sky130_fd_sc_hd__inv_1
Xi17 i17_A 0 0 VPWR VPWR i17_Y sky130_fd_sc_hd__inv_1
Xi18 i18_A 0 0 VPWR VPWR i18_Y sky130_fd_sc_hd__inv_1
Xi19 i19_A 0 0 VPWR VPWR i19_Y sky130_fd_sc_hd__inv_1
Xi20 i20_A 0 0 VPWR VPWR i20_Y sky130_fd_sc_hd__inv_1
Xi21 i21_A 0 0 VPWR VPWR i21_Y sky130_fd_sc_hd__inv_1
Xi22 i22_A 0 0 VPWR VPWR i22_Y sky130_fd_sc_hd__inv_1
Xi23 i23_A 0 0 VPWR VPWR i23_Y sky130_fd_sc_hd__inv_1
Xi24 i24_A 0 0 VPWR VPWR i24_Y sky130_fd_sc_hd__inv_1
Xi25 i25_A 0 0 VPWR VPWR i25_Y sky130_fd_sc_hd__inv_1
Xi26 i26_A 0 0 VPWR VPWR i26_Y sky130_fd_sc_hd__inv_1
Xi27 i27_A 0 0 VPWR VPWR i27_Y sky130_fd_sc_hd__inv_1
Xi28 i28_A 0 0 VPWR VPWR i28_Y sky130_fd_sc_hd__inv_1
Xi29 i29_A 0 0 VPWR VPWR i29_Y sky130_fd_sc_hd__inv_1
Xi30 i30_A 0 0 VPWR VPWR i30_Y sky130_fd_sc_hd__inv_1
Xbuf buf_A 0 0 VPWR VPWR buf_X sky130_fd_sc_hd__buf_1

Rn0_0 nand_Y i1_A 20.2563
Cg0 i1_A 0 8.161490e-17
Cg1 nand_Y 0 8.161490e-17
Cc0 i1_A nand_B 7.471270e-17
Rn1_1 i1_Y i2_A 19.4973
Cg2 i2_A 0 3.474790e-17
Cg3 i1_Y 0 3.474790e-17
Cc1 i2_A nand_B 9.527920e-17
Rn10_2 i10_Y i11_A 21.6491
Cg4 i11_A 0 1.368530e-16
Cg5 i10_Y 0 1.368530e-16
Cc2 i11_A i10_A 6.894900e-17
Cc3 i11_A i12_A 2.209870e-17
Cc4 i11_A i18_A 1.588640e-16
Rn11_3 i11_Y i12_A 32.5241
Cg6 i12_A 0 2.436360e-16
Cg7 i11_Y 0 2.436360e-16
Cx0 i12_A 0 3.496240e-17
Cc5 i12_A i13_A 2.555030e-17
Cc6 i12_A i17_A 6.380160e-17
Cc7 i12_A i18_A 7.713030e-17
Cx1 i12_A 0 2.513430e-18
Cx2 i12_A 0 9.910860e-17
Rn12_4 i12_Y i13_A 30.2652
Cg8 i13_A 0 1.544010e-16
Cg9 i12_Y 0 1.544010e-16
Cc8 i13_A i14_A 6.894900e-17
Cc9 i13_A i17_A 1.264390e-16
Cx3 i13_A 0 0.000000e+00
Rn13_5 i13_Y i14_A 22.1313
Cg10 i14_A 0 1.422440e-16
Cg11 i13_Y 0 1.422440e-16
Cc10 i14_A i15_A 5.848010e-17
Cc11 i14_A i16_A 6.804830e-17
Cc12 i14_A i17_A 7.713030e-17
Rn14_6 i14_Y i15_A 20.8277
Cg12 i15_A 0 7.712260e-17
Cg13 i14_Y 0 7.712260e-17
Cc13 i15_A i16_A 1.321400e-16
Cc14 i15_A buf_A 2.629080e-17
Rn15_7 i15_Y s1425_4 9.3000
Rn15_8 s1425_4 buf_A 23.9696
Rn15_9 s1425_4 i16_A 12.6527
Cg14 i16_A 0 1.962820e-16
Cg15 buf_A 0 4.404120e-16
Cg16 i15_Y 0 0.000000e+00
Cg17 s1425_4 0 6.366940e-16
Cx4 buf_A 0 4.573520e-17
Rn16_10 i16_Y i17_A 31.4795
Cg18 i17_A 0 1.906360e-16
Cg19 i16_Y 0 1.906360e-16
Cx5 i17_A 0 3.690470e-18
Cx6 i17_A 0 0.000000e+00
Cx7 i17_A 0 0.000000e+00
Rn17_11 i17_Y i18_A 34.0509
Cg20 i18_A 0 4.392870e-16
Cg21 i17_Y 0 4.392870e-16
Cc15 i18_A i10_A 4.757230e-17
Cx8 i18_A 0 7.531090e-18
Cx9 i18_A 0 7.082970e-17
Rn18_12 i18_Y i19_A 20.3188
Cg22 i19_A 0 1.022770e-16
Cg23 i18_Y 0 1.022770e-16
Rn19_13 i19_Y i20_A 19.9080
Cg24 i20_A 0 7.783650e-17
Cg25 i19_Y 0 7.783650e-17
Rn2_14 i2_Y i3_A 31.0866
Cg26 i3_A 0 2.001690e-16
Cg27 i2_Y 0 2.001690e-16
Cc16 i3_A i4_A 6.894900e-17
Cc17 i3_A nand_B 4.889440e-17
Cx10 i3_A 0 5.417940e-17
Cx11 i3_A 0 6.894900e-17
Cx12 i3_A 0 0.000000e+00
Rn20_15 i20_Y i21_A 19.4973
Cg28 i21_A 0 5.339630e-17
Cg29 i20_Y 0 5.339630e-17
Rn21_16 i21_Y i22_A 19.4973
Cg30 i22_A 0 5.339630e-17
Cg31 i21_Y 0 5.339630e-17
Rn22_17 i22_Y i23_A 29.8545
Cg32 i23_A 0 1.534440e-16
Cg33 i22_Y 0 1.534440e-16
Cc18 i23_A i25_A 3.000230e-17
Cx13 i23_A 0 0.000000e+00
Cx14 i23_A 0 2.808530e-17
Rn23_18 i23_Y i24_A 19.4973
Cg34 i24_A 0 1.054390e-17
Cg35 i23_Y 0 1.054390e-17
Cc19 i24_A i25_A 9.572150e-17
Cx15 i24_A 0 9.572150e-17
Rn24_19 i24_Y i25_A 21.9304
Cg36 i25_A 0 6.074010e-17
Cg37 i24_Y 0 6.074010e-17
Cx16 i25_A 0 1.027730e-16
Cx17 i25_A 0 3.100230e-16
Rn25_20 i25_Y i26_A 31.1402
Cg38 i26_A 0 2.213650e-16
Cg39 i25_Y 0 2.213650e-16
Cc20 i26_A i28_A 6.564840e-17
Cc21 i26_A i29_A 0.000000e+00
Cx18 i26_A 0 0.000000e+00
Cx19 i26_A 0 1.209430e-16
Rn26_21 i26_Y i27_A 19.4973
Cg40 i27_A 0 3.671500e-17
Cg41 i26_Y 0 3.671500e-17
Cc22 i27_A i28_A 5.269610e-17
Rn27_22 i27_Y i28_A 32.9795
Cg42 i28_A 0 2.552570e-16
Cg43 i27_Y 0 2.552570e-16
Cc23 i28_A i29_A 2.233140e-17
Cx20 i28_A 0 0.000000e+00
Rn28_23 i28_Y i29_A 30.6670
Cg44 i29_A 0 1.835420e-16
Cg45 i28_Y 0 1.835420e-16
Cc24 i29_A i30_A 1.795390e-17
Cx21 i29_A 0 4.196240e-18
Cx22 i29_A 0 3.476410e-18
Cx23 i29_A 0 0.000000e+00
Rn29_24 i29_Y i30_A 31.2563
Cg46 i30_A 0 2.450270e-16
Cg47 i29_Y 0 2.450270e-16
Cx24 i30_A 0 2.354100e-17
Cx25 i30_A 0 1.818030e-16
Cx26 i30_A 0 6.220970e-17
Rn3_25 i3_Y i4_A 22.1313
Cg48 i4_A 0 7.585240e-17
Cg49 i3_Y 0 7.585240e-17
Cc25 i4_A i5_A 9.572150e-17
Cx27 i4_A 0 2.899210e-16
Cx28 i4_A 0 9.027750e-17
Rn30_26 i30_Y nand_B 36.5911
Cg50 nand_B 0 3.475850e-16
Cg51 i30_Y 0 3.475850e-16
Cx29 nand_B 0 6.627180e-16
Cx30 nand_B 0 3.332380e-17
Rn4_27 i4_Y i5_A 19.4973
Cg52 i5_A 0 1.054390e-17
Cg53 i4_Y 0 1.054390e-17
Cx31 i5_A 0 9.572150e-17
Rn5_28 i5_Y i6_A 30.1580
Cg54 i6_A 0 1.912240e-16
Cg55 i5_Y 0 1.912240e-16
Cc26 i6_A i7_A 2.808530e-17
Cx32 i6_A 0 3.524080e-17
Cx33 i6_A 0 0.000000e+00
Rn6_29 i6_Y i7_A 20.6982
Cg56 i7_A 0 7.552000e-17
Cg57 i6_Y 0 7.552000e-17
Cc27 i7_A i8_A 6.869790e-17
Cx34 i7_A 0 1.047670e-16
Rn7_30 i7_Y i8_A 21.1313
Cg58 i8_A 0 6.969220e-17
Cg59 i7_Y 0 6.969220e-17
Cc28 i8_A i9_A 5.114260e-17
Cx35 i8_A 0 1.450400e-16
Rn8_31 i8_Y i9_A 21.2563
Cg60 i9_A 0 1.167570e-16
Cg61 i8_Y 0 1.167570e-16
Cc29 i9_A i10_A 2.555030e-17
Cx36 i9_A 0 4.136780e-17
Rn9_32 i9_Y i10_A 30.2652
Cg62 i10_A 0 1.265110e-16
Cg63 i9_Y 0 1.265110e-16
Cx37 i10_A 0 1.215730e-16
Cx38 i10_A 0 1.691150e-17
Cg64 buf_X 0 7.032460e-16
Cx39 i12_A 0 3.496240e-17
Cx40 i17_A 0 3.690470e-18

.save v(buf_X)
.tran 1p 140n
.control
run
meas tran tp TRIG v(buf_X) VAL=0.9 RISE=5 TARG v(buf_X) VAL=0.9 RISE=25
let f = 20 / tp
print f
.endc
.end
